US03996282
Proceeding in a manner similar to that described above in B-8a, 29.9 parts of N-(3-dimethylaminopropyl)formamide and 44.3 parts of 5-nitro-1-chloromethylnaphthalene were interacted in 30 parts of water to obtain N,N-dimethyl-N-(5-nitro-1-naphthylmethyl)-N-3-formamidopropylammonium chloride. The product was not isolated but was used directly in solution for reduction of the nitro group.

reactant | N-(3-dimethylaminopropyl)formamide | CN(CCCNC=O)C | C6H14N2O
reactant | 5-nitro-1-chloromethylnaphthalene | [N+](=O)([O-])C1=C2C=CC=C(C2=CC=C1)CCl | C11H8ClNO2
solvent | water | O | H2O
product | N,N-dimethyl-N-(5-nitro-1-naphthylmethyl)-N-3-formamidopropylammonium chloride | [Cl-].C[N+](CCCNC=O)(CC1=CC=CC2=C(C=CC=C12)[N+](=O)[O-])C | InChI=1S/C17H21N3O3.ClH/c1-20(2,11-5-10-18-13-21)12-14-6-3-8-16-15(14)7-4-9-17(16)19(22)23;/h3-4,6-9,13H,5,10-12H2,1-2H3;1H
